US05096920
A solution of 9.4 g 80-90% pure 3-chloroperbenzoic acid (=approximately 0.046 Mol) in 200 ml acetone was added dropwise with vigorous stirring to a solution of 10 g (=0.004 Mol) 5-(4-hydroxyphenyl)-1,2-dithiol-3-thione in 300 ml acetone within one hour at room temperature. Thereafter, the reaction mixture was kept at the same temperature for a further hour. The 5-(4-hydroxyphenyl)-1,2-dithiol-3-thion-S-oxide which resulted as a red precipitate was filtered-off under suction and dried over phosphorus pentoxide. 9.4 g of the S-oxide with a melting point of 118-124° C. were obtained.

reactant | 3-chloroperbenzoic acid | approximately 0.046 Mol, 9.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-(4-hydroxyphenyl)-1,2-dithiol-3-thione | 0.004 Mol, 10 g | OC1=CC=C(C=C1)C1=CC(SS1)=S | C9H6OS3
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 5-(4-hydroxyphenyl)-1,2-dithiol-3-thion-S-oxide | OC1=CC=C(C=C1)C1=CC(SS1)=S=O | C9H6O2S3
